US06632909B2
The preparation is carried out analogously to Example 1 from 1.0 g (4.00 mmol) of 3(E)-[4-ethoxy-3-propoxyphenyl]acrylic acid and 0.92 g (4.39 mmol) of 8-bromo-1-hexanol and, according to chromatography over 150 g of silica gel using toluene/ethyl acetate, gives 8-hydroxyoctyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate.

reactant | 3(E)-[4-ethoxy-3-propoxyphenyl]acrylic acid | 4.00 mmol, 1.0 g | C(C)OC1=C(C=C(C=C1)/C=C/C(=O)O)OCCC | C14H18O4
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 8-hydroxyoctyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate | C(C)OC1=C(C=C(C=C1)/C=C/C(=O)OCCCCCCCCO)OCCC | C22H34O5
